US05041156
0.9 g of 3-pentanone oxime is added at room temperature to a suspension of 3.0 g of 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzoic acid in 50 ml of diethyl ether. Thereafter, a solution of 1.9 g of dicyclohexylcarbodiimide and 0.1 g of 4-pyrrolidinopyridine in 15 ml of diethyl ether is added dropwise over 10 minutes. The reaction mixture is stirred at room temperature for 12 hours. Subsequently, it is filtered and evaporated to dryness under reduced pressure. The residue is purified by chromatography on silica gel with n-hexane/diethyl ether (4:1) as the eluent. In this manner there is obtained 3-pentanone O-{2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4 -trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzoyl}oxime, m.p. 128°-130° C.

reactant | 3-pentanone oxime | 0.9 g | CCC(CC)=NO | C5H11NO
reactant | 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzoic acid | 3.0 g | ClC1=C(C(=O)O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H7ClF4N2O4
reactant | dicyclohexylcarbodiimide | 1.9 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-pyrrolidinopyridine | 0.1 g | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
product | 3-pentanone O-{2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4 -trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzoyl}oxime | ClC1=C(C(=O)ON=C(CC)CC)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C18H16ClF4N3O4
